US05102998
In the same way as in Example 1, the reaction between 2-amino-5-chlorothiophenol and methyl (-)-(2R,3S)-2,3-epoxy-3-(4-methoxyphenyl)propionate affords (+)-(2S,3S)-8-chloro-3-hydroxy-2-(4-methoxyphenyl)-2,3-dihydro-5H-1,5-benzothiazepine-4-one. Melting point: 237°-241° C. [α]D20 =+91.9° (c=0.1; DMF).

reactant | 2-amino-5-chlorothiophenol | NC1=C(C=C(C=C1)Cl)S | C6H6ClNS
reactant | methyl (-)-(2R,3S)-2,3-epoxy-3-(4-methoxyphenyl)propionate | O1[C@@H](C(=O)OC)[C@@H]1C1=CC=C(C=C1)OC | C11H12O4
product | (+)-(2S,3S)-8-chloro-3-hydroxy-2-(4-methoxyphenyl)-2,3-dihydro-5H-1,5-benzothiazepine-4-one | ClC1=CC2=C(NC([C@@H]([C@@H](S2)C2=CC=C(C=C2)OC)O)=O)C=C1 | C16H14ClNO3S
